US06620811B2
[4-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl-carbamoyl)-pyridin-2-ylmethyl]-methyl-carbamic Acid Methyl Ester
A solution of N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-methylaminomethyl-isonicotinamide (180 mg, 0.44 mmol) in tetrahydrofurane(15 ml) is subsequently treated with pyridine(52 μl, 0.65 mmol) and methyl chloroformate (43 μl, 0.57 mmol)and stirred at ambient temperature for 15 h. Additional pyridine (25 μl, 0.31 mmol) and methylchloroformate (20 μl, 0.26 mmol) are added and the mixture stirred for another hour. Saturated sodium hydrogen carbonate (15 ml) is added and the mixture extracted four times with ethyl acetate. The combined organic ohases are dried with magnesium sulfate and evaporated to dryness. Flash chromatography (SiO2, eluent: dichloromethane/methanol 19:1) afforded the title compound as yellow crystals (115 mg, 56% yield). MS: m/e=472 (M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-methylaminomethyl-isonicotinamide | 0.44 mmol, 180 mg | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)CNC)=O)N2CCOCC2 | C20H23N5O3S
reactant | pyridine | 0.65 mmol, 52 μl | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.57 mmol, 43 μl | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 0.31 mmol, 25 μl | N1=CC=CC=C1 | C5H5N
reactant | methylchloroformate | 0.26 mmol, 20 μl | COC(=O)Cl | C2H3ClO2
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofurane | 15 ml | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
product | [4-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl-carbamoyl)-pyridin-2-ylmethyl]-methyl-carbamic Acid Methyl Ester | 115 mg, 56% yield | COC(N(C)CC1=NC=CC(=C1)C(NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)=O)=O | C22H25N5O5S
